US08293909B2
5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzo[b]thiophene-3-carboxamide was prepared from 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzo[b]thiophen-5-yl)benzoic acid (0.075 g, 0.15 mmol) and 2-methylpropan-2-amine (0.016 g, 0.22 mmol). 1H NMR (500 MHz, DMSO-D6) δ ppm 8.42 (s, 1H), 8.16 (s, 1H), 8.07 (s, 1H), 7.96 (s, 2H), 7.82 (s, 3H), 7.66 (s, 2H), 7.57 (s, 1H), 7.37 (s, 2H), 2.78 (s, 3H), 1.42 (s, 9H). LCMS: retention time: 3.218 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3OH/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3OH/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 461 (MH+).

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzo[b]thiophen-5-yl)benzoic acid | 0.15 mmol, 0.075 g | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)C=2C=C(C(=O)O)C=CC2)C(NC)=O | C23H16FNO3S
reactant | 2-methylpropan-2-amine | 0.22 mmol, 0.016 g | CC(C)(C)N | C4H11N
product | 5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzo[b]thiophene-3-carboxamide | C(C)(C)(C)NC(=O)C=1C=C(C=CC1)C1=CC2=C(SC(=C2C(=O)NC)C2=CC=C(C=C2)F)C=C1 | C27H25FN2O2S
